US05684034
2-Ethyl-5-methoxy-1-(phenylmethyl)-1H-indole-3-acetamide (5.05 g, 15.7 mmol) and 47 mL of 1M BBr3 in 100 mL of methylene chloride was reacted as described in Example 56, Part C to give a product that was chromatographed on silica gel eluting with EtOAc to give 3.64 g (75% yield) of 2-ethyl-5-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide as a yellow foam.

reactant | 2-Ethyl-5-methoxy-1-(phenylmethyl)-1H-indole-3-acetamide | 15.7 mmol, 5.05 g | C(C)C=1N(C2=CC=C(C=C2C1CC(=O)N)OC)CC1=CC=CC=C1 | C20H22N2O2
reactant | BBr3 | 1M, 47 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-ethyl-5-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide | 3.64 g, 75% yield | C(C)C=1N(C2=CC=C(C=C2C1CC(=O)N)O)CC1=CC=CC=C1 | C19H20N2O2
